US05750549
3-(SR)-(Benzyloxy)-2-(RS)-(4-fluorophenyl)cyclopentane-1-(RS)-carboxylic acid
To a solution of 10.0 gm of methyl 3-(SR)-(hydroxy)-2-(RS)-(4-fluorophenyl)cyclopentane-1-(RS)-carboxylate prepared as in Example 32 (lower isomer) and 10.8 gm of benzyl bromide in 50 mL of DMF was added in portions over 30 min 2.0 gm of 60% NaH in mineral oil. The reaction was stirred for 2 h at room temperature and was then diluted with ether and quenched by slow addition to water containing 25 mL of 2N HCl. The mixture was extracted twice with ether and the organic layers were washed with a portion of brine, combined, dried over sodium sulfate and evaporated. By T.l.c. and NMR the crude product consisted of a mixture of desired benzylated starting material and dimer derived from transesterification. The crude product was taken up in 100 mL of methanol and 45 mL of 5N NaOH was added. The mixture was stirred at room temperature for 40 h residue was diluted with waste. The residue was diluted with water and extracted twice with ether and the ether layers washed with dilute NaOH. The combined aqueous layers were acidified with HCl (c) and extracted twice with ethyl acetate. The organic layers were washed with a portion of brine, combined, dried over sodium sulfate and evaporated to give 14 gm of title compound contaminated with some 3-(SR)-(hydroxy)-2-(RS)-(4-fluorophenyl)cyclopentane-1-(RS)-carboxylic acid. This could be further purified by flash chromatography eluting with 20% ethyl acetate in hexanes followed by 1% HOAc/20% ethyl acetate in hexanes. T.l.c. (1% HOAc/20% ethyl acetate in hexanes) Rf =0.4.

reactant | methyl 3-(SR)-(hydroxy)-2-(RS)-(4-fluorophenyl)cyclopentane-1-(RS)-carboxylate | 10.0 gm | OC1C(C(CC1)C(=O)OC)C1=CC=C(C=C1)F | C13H15FO3
reactant | benzyl bromide | 10.8 gm | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaH | 2.0 gm | [H-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-(SR)-(Benzyloxy)-2-(RS)-(4-fluorophenyl)cyclopentane-1-(RS)-carboxylic acid | 14 gm | C(C1=CC=CC=C1)OC1C(C(CC1)C(=O)O)C1=CC=C(C=C1)F | C19H19FO3
